US06603012B2
Preparation of (RS)-4-[2-(4,4-dimethyl-thiochroman-6-yl)-heptyloxy]-benzoic Acid
140 mg of (RS)-methyl 4-[2-(4,4-dimethyl-thiochroman-6-yl)-heptyloxy]-benzoate, dissolved in 20 ml THF/5 ml H2O/5 ml methanol, was treated with 200 mg of lithium hydroxide hydrate. The mixture was stirred at 40° C. for 6 hours. The mixture was diluted with 5 ml water and acidified to pH 2 with 1N hydrochloric. The resulting suspension was taken in 20 ml ether and the phases were separated. The aqueous phase was extracted with three portions of 10 ml ether. The combined extracts were dried over MgSO4. The solvent was removed in vacuo and the crude product was purified by flash chromatography (10% methanol/methylene chloride), yielding a colorless oil. Trituration in hexanes provided a white solid, m.p. 168-169° C.

reactant | (RS)-methyl 4-[2-(4,4-dimethyl-thiochroman-6-yl)-heptyloxy]-benzoate | 140 mg | CC1(CCSC2=CC=C(C=C12)C(COC1=CC=C(C(=O)OC)C=C1)CCCCC)C | C26H34O3S
reactant | lithium hydroxide hydrate | 200 mg | O.[OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
product | (RS)-4-[2-(4,4-dimethyl-thiochroman-6-yl)-heptyloxy]-benzoic Acid | CC1(CCSC2=CC=C(C=C12)C(COC1=CC=C(C(=O)O)C=C1)CCCCC)C | C25H32O3S
